US07375083B2
Glu-Glu-Phe-Amp was synthesized by a similar method except the amino acid starting material was Boc-Glu(OtBu)-Glu(OtBu)-OSu and the starting drug conjugate was Phe-Amp (see Phe-Amp synthesis).

reactant | Boc-Glu(OtBu)-Glu(OtBu)-OSu | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C27H43N3O11
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | Glu-Glu-Phe | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C19H25N3O8
